US06255333B1
3-Cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-( 1-methylethen-1-yl)pyrazole
To a solution of 4-acetyl-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole (0.75 g) in tetrahydrofuran (5 ml) cooled to −40° C. under an atmosphere of nitrogen was added μ-chloro-μ-methylene-[bis(cyclopentadienyl)titanium]dimethylaluminium (5.18 ml of a 0.5M solution in toluene) and the mixture was stirred for 15 minutes then allowed to warm to room temperature. After 2 hours at room temperature 0.1M aqueous sodium sulphate solution was added dropwise until effervescence ceased. The reaction mixture was diluted with ether (50 ml), washed with aqueous sodium sulphate solution, dried and evaporated. The residue was purified by column chromatography on silica gel eluted with dichloromethane: hexane (1:1). Combination and evaporation of suitable fractions provided the title compound as a tan solid m.p. 63-64° C.

reactant | 4-acetyl-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole | 0.75 g | C(C)(=O)C=1C(=NN(C1)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N | C13H6Cl2F3N3O
reactant | sodium sulphate | 0.1M | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ether | 50 ml | CCOCC | C4H10O
product | 3-Cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-( 1-methylethen-1-yl)pyrazole | C(#N)C1=NN(C=C1C(=C)C)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C14H8Cl2F3N3
